US07018988B2
(2S,4EZ)-1-(diphenylacetyl)-4-{[(4-methoxybenzyl)oxy]imino}-N-(2-thienylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 2-thienylmethylamine the title compound was obtained in 63% purity by LC/MS. MS(ESI+): m/z=554.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 2-thienylmethylamine | S1C(=CC=C1)CN | C5H7NS
product | (2S,4EZ)-1-(diphenylacetyl)-4-{[(4-methoxybenzyl)oxy]imino}-N-(2-thienylmethyl)-2-pyrrolidinecarboxamide | C1(=CC=CC=C1)C(C(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)NCC=1SC=CC1)C1=CC=CC=C1 | C32H31N3O4S
